US04082745
Cephacetril.
2.72 g (10 mmol) of 7-aminocephalosporanic acid are suspended in 50 ml of dry methylene chloride. 1.5 ml (10 mmol) of 2-diethylamino-1,3,2-dioxaphospholane and 1.33 ml (10.5 mmol) of trimethylchlorosilane are added under nitrogen at room temperature. The reaction mixture is stirred for 16 hours at room temperature. After cooling to 0° C, a solution of 10 mmol of cyanoacetyl chloride in 6 ml of methylene chloride is added over 5 minutes.

reactant | 7-aminocephalosporanic acid | 10 mmol, 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 2-diethylamino-1,3,2-dioxaphospholane | 10 mmol, 1.5 ml | C(C)N(P1OCCO1)CC | C6H14NO2P
reactant | trimethylchlorosilane | 10.5 mmol, 1.33 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | cyanoacetyl chloride | 10 mmol | C(#N)CC(=O)Cl | C3H2ClNO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | Cephacetril | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC#N)SC1)C(=O)O | C13H13N3O6S
